US09126956B2
5D: (2S,4R)-5-(5′-Chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-2-methyl-4-[(2-oxo-2,3-dihydro-oxazole-5-carbonyl)amino]pentanoic Acid
2-Oxo-2,3-dihydrooxazole-5-carboxylic acid (7.1 mg, 55 μmol) and HATU (21 mg, 55 μmol) were combined in DMF (0.3 mL) and stirred at room temperature for 5 minutes. (2S,4R)-4-Amino-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-2-methylpentanoic acid (20 mg, 55 μmol) in DMF (0.5 mL) and DIPEA (29 μL, 164 μmol) were added, and the resulting mixture was stirred for 10 minutes at room temperature. The mixture was concentrated under reduced pressure and the residue was dissolved in AcOH purified by preparative HPLC to yield the title compound (3 mg). MS m/z [M+H]+ calc'd for C23H22ClFN2O6, 477.12. found 477.

reactant | 2-Oxo-2,3-dihydrooxazole-5-carboxylic acid | 55 μmol, 7.1 mg | O=C1OC(=CN1)C(=O)O | C4H3NO4
reactant | HATU | 55 μmol, 21 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-4-Amino-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-2-methylpentanoic acid | 55 μmol, 20 mg | N[C@@H](C[C@@](C(=O)O)(C)CO)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F | C19H21ClFNO3
reactant | DIPEA | 164 μmol, 29 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-5-(5′-Chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-2-methyl-4-[(2-oxo-2,3-dihydro-oxazole-5-carbonyl)amino]pentanoic Acid | 3 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)C1=CNC(O1)=O)F | C23H22ClFN2O6
